US09085583B2
2-Methyl-1-(1-oxo-1-(pyrrolidin-1-yl)propan-2-yl)-1H-indole-3-carboxylic acid (90 mg, 0.30 mmol) was dissolved in dichloromethane (15 mL), and then N-hydroxybenzotrizole (0.45 mmol, 60 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.45 mmol, 86 mg), and triethylamine (1.69 mmol, 2 ml) was added to the mixture. After the mixture was stirred at room temperature for 10 minutes, 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (0.30 mol, 50 mg) was added. The mixture was stirred at room temperature for 18 hours. Then washed with water (20 mL), extracted with dichloromethane (20 mL). The organic layer was separated, and concentrated to give a residue and the residue was purified by column chromatography (silica gel, dichloromethane/methanol=15:1) to give N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-oxo-1-(pyrrolidin-1-yl)propan-2-yl)-1H-indole-3-carboxamide (60 mg, 70%). LCMS (M+H+) m/z: calcd 434.23. found 434. HPLC Purity (214 nm): 99%. 1H NMR (300 MHz, DMSO-d6) δ 11.62 (s, 1H), 7.75-7.72 (m, 2H), 7.42 (d, J=5.7 Hz, 1H), 7.10-7.06 (m, 2H), 5.89 (s, 1H), 5.49-5.44 (m, 1H), 4.32-4.30 (m, 2H), 3.42-3.32 (m, 3H), 3.28-3.16 (m, 1H), 2.61 (s, 3H), 2.26 (s, 3H), 2.12 (m, 3H), 2.02-1.96 (m, 1H), 1.70-1.57 (m, 3H), 1.42 (d, J=5.1 Hz, 3H).

reactant | 2-Methyl-1-(1-oxo-1-(pyrrolidin-1-yl)propan-2-yl)-1H-indole-3-carboxylic acid | 0.30 mmol, 90 mg | CC=1N(C2=CC=CC=C2C1C(=O)O)C(C(N1CCCC1)=O)C | C17H20N2O3
reactant | N-hydroxybenzotrizole | 0.45 mmol, 60 mg | C1=CC=C2C(=C1)N=NN2O.N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.45 mmol, 86 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.69 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.30 mol, 50 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-oxo-1-(pyrrolidin-1-yl)propan-2-yl)-1H-indole-3-carboxamide | 60 mg, 70% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=CC=CC=C12)C(C(N1CCCC1)=O)C)C | C25H30N4O3
